US07772262B2
c) N-[4-(1,1-Dioxo-4-phenylisothiazolidin-2-yl)-5-methanesulfonyl-2-methyl-benzoyl]guanidine, hydrochloride
737 mg of N-[4-(1,1-dioxo-4-phenylisothiazolidin-2-yl)-5-methanesulfonyl-2-methylbenzoyl]guanidine were dissolved in 20 ml of acetone, and 2 ml of a 2N aqueous HCl solution were added. The volatile constituents were then removed in vacuo. This was followed by coevaporation 3 times with 20 ml of toluene each time and finally drying under medium vacuum. 728 mg of white crystals were obtained, mp 259° C. (with decomposition).

reactant | N-[4-(1,1-dioxo-4-phenylisothiazolidin-2-yl)-5-methanesulfonyl-2-methylbenzoyl]guanidine | 737 mg | O=S1(N(CC(C1)C1=CC=CC=C1)C1=CC(=C(C(=O)NC(=N)N)C=C1S(=O)(=O)C)C)=O | C19H22N4O5S2
reactant | HCl | 2N | Cl | ClH
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | N-[4-(1,1-Dioxo-4-phenylisothiazolidin-2-yl)-5-methanesulfonyl-2-methyl-benzoyl]guanidine, hydrochloride | 728 mg | Cl.O=S1(N(CC(C1)C1=CC=CC=C1)C1=CC(=C(C(=O)NC(=N)N)C=C1S(=O)(=O)C)C)=O | InChI=1S/C19H22N4O5S2.ClH/c1-12-8-16(17(29(2,25)26)9-15(12)18(24)22-19(20)21)23-10-14(11-30(23,27)28)13-6-4-3-5-7-13;/h3-9,14H,10-11H2,1-2H3,(H4,20,21,22,24);1H
